US07981903B2
A suspension of 5-chloro-8-fluoro-3-[(4-methylphenyl)sulfonyl]pyrrolo[2′,3′:4,5]pyrimido[6,1-b]quinazolin-7(3H)-one hydrogen chloride (0.600 g, 1.252 mmol) and 1-[(dimethylamino)acetyl]-2,3-dihydro-1H-indol-6-amine (0.274 g, 1.252 mmol) was maintained at 70° C. in tetrahydrofuran (20 ml) in a pressure tube for 16 hours. The reaction was cooled, opened, concentrated under reduced pressure, and redissolved in methylene chloride/2,2,2-trifluoroethanol (ca 15 mL). Saturated sodium bicarbonate was added and all solids dissolve. The organic layer was dried over sodium sulfate, filtered, taken to a residue under reduced pressure, and triturated with diethyl ether to afford 5-{[1-(N,N-dimethylglycyl)-2,3-dihydro-1H-indol-6-yl]amino}-8-fluoro-3-[(4-methylphenyl)sulfonyl]pyrrolo[2′,3′:4,5]pyrimido[6,1-b]quinazolin-7(3H)-one (0.696 g, 1.112 mmol, 89%) as a yellow solid. A suspension of 5-{[1-(N,N-dimethylglycyl)-2,3-dihydro-1H-indol-6-yl]amino}-8-fluoro-3-[(4-methylphenyl)sulfonyl]pyrrolo[2′,3′:4,5]pyrimido[6,1-b]quinazolin-7(3H)-one (0.696 g, 1.112 mmol) in tetrahydrofuran (20 ml) was treated with 2.0M methyl amine/THF (3.34 ml, 6.67 mmol) and over 24 hours all solids dissolve. The solution was poured into saturated sodium bicarbonate/EtOAc and the organic layer was dried over sodium sulfate, filtered, and taken to a residue under reduced pressure. The residue was dissolved in 1,4-dioxane (8 ml)/2.0N NaOH (aq) (8 ml) and maintained at 120° C. under microwave heating for 12 minutes. The solution was cooled, poured into ethyl acetate/THF/saturated sodium chloride (aq) and the organic layer was dried over sodium sulfate, filtered, stripped onto celite, and purified by column chromatography to afford 2-[(2-{[1-(N,N-dimethylglycyl)-2,3-dihydro-1H-indol-6-yl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-6-fluoro-N-methylbenzamide (0.230 g, 0.458 mmol, 41.1%) as a yellow solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 11.33 (s, 1H), 10.20 (s, 1H), 8.89 (s, 1H), 8.54 (d, J=7.62 Hz, 1H), 8.21 (s, 1H), 7.83 (d, J=7.22 Hz, 1H), 7.34-7.48 (m, 1H), 7.10 (d, J=8.23 Hz, 1H), 6.85-7.01 (m, 3H), 6.29 (dd, J=3.41, 1.81 Hz, 1H), 4.15 (t, J=8.23 Hz, 2H), 3.21 (s, 2H), 2.99-3.12 (m, 2H), 2.79 (d, J=4.61 Hz, 3H), 2.27 (s, 6H). ESIMS (M+H)+=503.

reactant | 5-{[1-(N,N-dimethylglycyl)-2,3-dihydro-1H-indol-6-yl]amino}-8-fluoro-3-[(4-methylphenyl)sulfonyl]pyrrolo[2′,3′:4,5]pyrimido[6,1-b]quinazolin-7(3H)-one | 1.112 mmol, 0.696 g | CN(CC(=O)N1CCC2=CC=C(C=C12)NC1=NC2=C(C3=NC4=CC=CC(=C4C(N31)=O)F)C=CN2S(=O)(=O)C2=CC=C(C=C2)C)C | C32H28FN7O4S
reactant | methyl amine THF | 6.67 mmol, 2.0M, 3.34 ml | CN.C1CCOC1
reactant | sodium bicarbonate EtOAc | C([O-])(O)=O.[Na+].CCOC(=O)C
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2-[(2-{[1-(N,N-dimethylglycyl)-2,3-dihydro-1H-indol-6-yl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-6-fluoro-N-methylbenzamide | 0.458 mmol, 0.230 g, 41.1% | CN(CC(=O)N1CCC2=CC=C(C=C12)NC1=NC(=C2C(N1)=NC=C2)NC2=C(C(=O)NC)C(=CC=C2)F)C | C26H27FN8O2
